Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
Hematochezia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ woman who presented to the
emergency room with 3 days of diarrhea, fever, and hematochezia. 

She was in her usual state of health until ___ days ago, at 
which
time she began having large numbers of loose stools each day
(>10).  Her appetite was reduced, but she did not have
significant nausea or vomiting.  She tried taking Imodium 
without
significant improvement.  Today she had 2 episodes of bright red
watery bowel movements.  She denies any pain associated with her
bowel movements.  She denied any lightheadedness or difficulty
with ambulation.  She also endorses more recently developing 
some
lower abdominal stabbing pains that feel like "gas pains".  She
has been taking Tylenol for the pain without significant
improvement.  She has no history of abdominal surgery or known
gastroenterologic disease.  She denied any ingestion of raw or
undercooked meat, although she did have ___ lettuce 5 days
ago.  

Upon presentation to the emergency room she was tachycardic to
the 120s.  Her blood pressures and other vital signs were
stable/normal her labs were unremarkable she received 4 L of LR
and ciprofloxacin 500 mg PO x2, as well as simethicone and
Lorazepam.  She had a CT scan that showed colitis of the
ascending, transverse, and descending colon felt to be 
infectious
or inflammatory.

When seen on the floor the patient reports that her symptoms 
have
improved slightly. In particular, she notes less blood and less
voluminous diarrhea. She also notes that she has been tolerating
POs better, having taken part of a ___ sandwich, and that her
lower abdominal cramping is somewhat improved. She states that
her max temp was 100.5 at home. She notes that the ___
lettuce she ate on ___ came from the part of ___ 
with
the e coli outbreak. She also notes eating multiple other raw
vegetables. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Mother has lupus, ___, and IBD
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation. 
Bowel sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 06:10AM BLOOD WBC-6.5 RBC-4.54 Hgb-12.8 Hct-38.1 MCV-84 
MCH-28.2 MCHC-33.6 RDW-11.9 RDWSD-35.9 Plt ___
___ 09:45PM BLOOD WBC-4.7 RBC-4.94 Hgb-14.1 Hct-40.9 MCV-83 
MCH-28.5 MCHC-34.5 RDW-11.9 RDWSD-36.1 Plt ___
___ 09:45PM BLOOD Neuts-54.1 ___ Monos-16.3* 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-2.51 AbsLymp-1.29 
AbsMono-0.76 AbsEos-0.06 AbsBaso-0.02
___ 06:10AM BLOOD Glucose-101* UreaN-4* Creat-0.8 Na-138 
K-3.8 Cl-100 HCO3-21* AnGap-17
___ 09:45PM BLOOD Glucose-117* UreaN-7 Creat-0.8 Na-137 
K-3.9 Cl-101 HCO3-22 AnGap-14

Stool viral culture: negative
Stool bacterial tests: no salmonella, no shigella, no vibrio, no 
campylobacter, no E Coli HO157

 
Brief Hospital Course:
___ is a ___ woman who presented to the 
emergency room with 3 days of diarrhea, fever, and hematochezia, 
found to have tachycardia and pancolitis on CT, consistent with 
community acquired bacterial colitis. She was initially treated 
with antibiotics, which were stopped due to concern for 
worsening of GI symptoms. E Coli HO157, Salmonella, Shigella, 
Norovirus negative. She was given IVF and was able to tolerate a 
diet. 
Discharged home to follow up with her PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*30 Tablet Refills:*0 
2.  Simethicone 40-80 mg PO QID:PRN abdominal discomfort 
RX *simethicone [Gas Relief] 80 mg 1 tab by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*0 
3.  ___ (28) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysentery 
Bacterial colitis
Lower GI Bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Continue bland diet
Avoid immodium, loperamide
Remain well hydrated

 
Followup Instructions:
___